US05061706
6.0 g (20.6 mmol) N-ethoxalyl-4-chloro-3-trifluoromethylaniline was dissolved in 30 ml 100% nitric acid and the reaction mixture was stirred at 25° C. for 16 h. The reaction mixture was poured into 500 ml ice-water. The crude product was filtered off, washed with water and recrystalized (ethanol) to give 4.95 g (72%) of N-ethoxalyl-4-chloro-6-nitro-3-trifluoromethylaniline. M.p. 96.5°-97.5° C.

reactant | N-ethoxalyl-4-chloro-3-trifluoromethylaniline | 20.6 mmol, 6.0 g | C(=O)(C(=O)OCC)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C11H9ClF3NO3
reactant | nitric acid | 30 ml | [N+](=O)(O)[O-] | HNO3
product | N-ethoxalyl-4-chloro-6-nitro-3-trifluoromethylaniline | 4.95 g, 72% | C(=O)(C(=O)OCC)NC1=CC(=C(C=C1[N+](=O)[O-])Cl)C(F)(F)F | C11H8ClF3N2O5
